US09102662B2
N-[5-(3,5-Difluoro-benzyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-nitro-benzamide [(IA), R1=R2=R3=H, R=3,5-difluorophenyl, Ar=4-(4-methyl-piperazin-1-yl)-2-nitro-phenyl] cpd. 6
N-[5-(3,5-Difluoro-benzoyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-nitro-benzamide (3.61 g, 6.93 mmol) was dissolved in DCM (150 mL) in argon atmosphere and trifluoroacetic acid (150 mL) is added under stirring. Sodium borohydride pellets (2.62 gr, 69.3 mmol) is gradually added over a period of 72 hours. The reaction mixture was evaporated, taken up with a mixture MeOH/acetone and stirred for 1 hour. The resulting mixture was evaporated to dryness, redissolved in MeOH and NaOH 8N was added till basic pH was reached. Crude was evaporated and ice/water was added, the solid thus formed was filtered, washed with water and dried under vacuum at 80° C. affording 3.22 g of title compound (92% yield).

reactant | N-[5-(3,5-Difluoro-benzoyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-nitro-benzamide | 6.93 mmol, 3.61 g | FC=1C=C(C(=O)C=2C=C3C(=NNC3=CC2)NC(C2=C(C=C(C=C2)N2CCN(CC2)C)[N+](=O)[O-])=O)C=C(C1)F | C26H22F2N6O4
reactant | Sodium borohydride | [BH4-].[Na+]
solvent | DCM | 150 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 150 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-[5-(3,5-Difluoro-benzyl)-1H-indazol-3-yl]-4-(4-methyl-piperazin-1-yl)-2-nitro-benzamide | 3.22 g, 92% yield | FC=1C=C(CC=2C=C3C(=NNC3=CC2)NC(C2=C(C=C(C=C2)N2CCN(CC2)C)[N+](=O)[O-])=O)C=C(C1)F | C26H24F2N6O3
